US08530491B2
f) 2,4-diamino-6-ethyl-5-(3-(2-(3-ethoxycarbonylpropoxy)phenoxy)propoxy)pyrimidine hydrochloride
To a suspension of 2,4-diamino-6-ethyl-5-(3-(2-(3-ethoxycarbonylpropoxy)phenoxy)propoxy)pyrimidine (0.4185 g, 1 mmol) in EtOH (1 mL) was added one equivalent of concentrated HCl. The titled compound was obtained, after trituration of the reaction mixture with diethyl ether, as a white crystalline solid (0.4322 g, 95%). 1H NMR (500 MHz, DMSO-d6): 1.09 (3H, t, J=7.6 Hz), 1.15 (3H, t, J=7.1 Hz), 1.93 (2H, m), 2.18 (2H, m), 2.44 (2H, t, J=7.4 Hz), 2.49 (2H, q, J=7.7 Hz), 3.89 (2H, t, J=6.1 Hz), 3.95 (2H, t, J=6.3 Hz), 4.04 (2H, q, J=7.1 Hz), 4.12 (2H, t, J=5.7 Hz), 6.87-6.90 (2H, m), 6.95-7.01 (2H, m), 7.43 (2H, bs), 7.83 (1H, s), 8.33 (1H, s), 12.39 (1H, s).

reactant | 2,4-diamino-6-ethyl-5-(3-(2-(3-ethoxycarbonylpropoxy)phenoxy)propoxy)pyrimidine | 1 mmol, 0.4185 g | NC1=NC(=C(C(=N1)N)OCCCOC1=C(C=CC=C1)OCCCC(=O)OCC)CC | C21H30N4O5
reactant | HCl | one equivalent | Cl | ClH
solvent | EtOH | 1 mL | CCO | C2H6O
product | 2,4-diamino-6-ethyl-5-(3-(2-(3-ethoxycarbonylpropoxy)phenoxy)propoxy)pyrimidine hydrochloride | Cl.NC1=NC(=C(C(=N1)N)OCCCOC1=C(C=CC=C1)OCCCC(=O)OCC)CC | InChI=1S/C21H30N4O5.ClH/c1-3-15-19(20(22)25-21(23)24-15)30-14-8-13-29-17-10-6-5-9-16(17)28-12-7-11-18(26)27-4-2;/h5-6,9-10H,3-4,7-8,11-14H2,1-2H3,(H4,22,23,24,25);1H
